US08669234B2
2-Methyl-1-{2-[4′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-biphenyl-4-ylcarbamoyl]-pyrrolidine-1-carbonyl}-propyl)-carbamic acid methyl ester: {1-[2-(4′-Bromo-biphenyl-4-ylcarbamoyl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester (154 mg, 0.307 mmol), bis(pinacolato)diboron (156 mg, 0.613 mmol), Pd(dppf)2Cl2 (11 mg, 0.0154 mmol) and potassium acetate (90 mg, 1.21 mmol) were suspended in dioxane and degassed for 15 min. The stirred reaction mixture was heated to 100° C. for 2 hours then cooled to RT, diluted with ethyl acetate (100 mL) and washed with water and brine. The organic phase was dried over magnesium sulfate and concentrated. The residue was purified by silica column chromatography (70% to 90% EtOAc/hexanes) to afford (2-Methyl-1-{2-[4′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-biphenyl-4-ylcarbamoyl]-pyrrolidine-1-carbonyl}-propyl)-carbamic acid methyl ester (127 mg, 75%).

reactant | carbamic acid methyl ester | COC(N)=O | C2H5NO2
reactant | {1-[2-(4′-Bromo-biphenyl-4-ylcarbamoyl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester | 0.307 mmol, 154 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C(NC1=CC=C(C=C1)C1=CC=C(C=C1)Br)=O)=O | C24H28BrN3O4
reactant | bis(pinacolato)diboron | 0.613 mmol, 156 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.21 mmol, 90 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd(dppf)2Cl2 | 0.0154 mmol, 11 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (2-Methyl-1-{2-[4′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-biphenyl-4-ylcarbamoyl]-pyrrolidine-1-carbonyl}-propyl)-carbamic acid methyl ester | 127 mg, 75% | COC(NC(C(C)C)C(=O)N1C(CCC1)C(NC1=CC=C(C=C1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O)=O | C30H40BN3O6
